US07943788B2
5-Bromo-2-chloro-1-(5-methylbenzo[b]thiophen-2-ylmethyl)benzene
5-Methylbenzo[b]thiophene and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 7 to give the target compound.

reactant | 5-Methylbenzo[b]thiophene | CC1=CC2=C(SC=C2)C=C1 | C9H8S
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-Bromo-2-chloro-1-(5-methylbenzo[b]thiophen-2-ylmethyl)benzene | BrC=1C=CC(=C(C1)CC1=CC2=C(S1)C=CC(=C2)C)Cl | C16H12BrClS
